### PR TITLE
Trivialities on CRings

### PR DESCRIPTION
**Pull request by jcommelin**

### CODE REVIEW

File: theories/Algebra/CRing.v [hunk 1]
```diff
@@ -60,4 +65,20 @@ Proof.
...
+Defined.
+
+Lemma rng_dist_r {A : CRing} (a b c : A)
+  : (a + b) * c = a * c + b * c.
+Proof.
+  rapply (simple_distribute_r a b c).
+Defined.
+
+Definition rng_zero_mul {A : CRing} (a : A) : 0 * a = 0 :=
+left_absorb a.
```
Comment (Alizter) [inline theories/Algebra/CRing.v]:
```suggestion
Definition rng_zero_mul {A : CRing} (a : A) : 0 * a = 0
  := left_absorb a.
```

File: theories/Algebra/CRing.v [hunk 2]
```diff
@@ -60,4 +65,20 @@ Proof.
...
 
+Definition rng_mul_zero {A : CRing} (a : A) : a * 0 = 0 :=
+right_absorb a.
```
Comment (Alizter) [inline theories/Algebra/CRing.v]:
```suggestion
Definition rng_mul_zero {A : CRing} (a : A) : a * 0 = 0
  := right_absorb a.
```

**Comment by Alizter** [comment]
By the way, the reason the checks are failing is because CRing isn't in the project file HoTT/_CoqProject. It doesn't matter for now since this is just on my branch. When we want to add this to the main library we should make sure we included it there.
